US07714004B2
Preparation of 4-hydroxy-3-propylbenzenecarbothioamide
A solution of 4-hydroxy-3-propylbenzonitrile (35.63 g, 0.221 mol) (Example 29 in DMF (300 mL) was saturated with hydrogen sulfide at rt (moderate flow over 45 min). Temperature was monitored (increase of about 7° C.). Diethylamine (45.73 mL, 0.442 mol) was added to the solution. The temperature rose to 10° C. and the already green reaction mixture became darker green. Hydrogen sulfide was passed through the solution for another 30 min (at this point the reaction temperature was 40° C.). The reaction mixture was warmed to 60° C. (gaseous evolution noted). Hydrogen sulfide was again passed through the solution at 60° C. over 2 h. The reaction mixture was cooled and stirred at rt for 54 h, and most of the solvent removed under reduced pressure. The resultant residue was partitioned between ethyl acetate (300 mL) and water (200 mL). The organic layer was washed with water (4×100 mL), then brine, and dried over sodium sulfate, filtered, and concentrated. The resultant orange oil was triturated in hexanes (300 mL) and ether (25 mL) to give a yellow solid (39.97 g, 93%) after drying for 1 h under suction. LC/MS m/z 196.1 (M+H)+, RT 2.16 min. 1H NMR (400 MHz, DMSO-d6) δ 9.94 (s, 1H), 9.44 (s, 1H), 9.14 (s, 1H), 7.73-7.65 (m, 2H), 6.73 (d, 1H), 2.51-2.47 (m, 2H), 1.59-1.50 (m, 2H), 0.90 (t, 3H).

reactant | 4-hydroxy-3-propylbenzonitrile | 0.221 mol, 35.63 g | OC1=C(C=C(C#N)C=C1)CCC | C10H11NO
reactant | hydrogen sulfide | S | H2S
reactant | Diethylamine | 0.442 mol, 45.73 mL | C(C)NCC | C4H11N
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 4-hydroxy-3-propylbenzenecarbothioamide | 39.97 g, 93% | OC1=C(C=C(C=C1)C(N)=S)CCC | C10H13NOS
